US09056859B2
A solution of 5-bromo-3,4-dihydro-1H-isochromene-1-carboxylic acid (0.500 g, 1.94 mmol) in 1 mL of THF was added BH3. THF (3.88 mL, 3.88 mmol) drop wise at 0° C. The mixture was stirred at 0° C. for 2 h. The reaction was quenched with water and aqueous sodium hydroxide (1 N, 2 mL). The contents were stirred for 3 h, and then extracted with EtOAc. The organic layer was dried and concentrated to give (5-bromo-3,4-dihydro-1H-isochromen-1-yl)methanol 1H-NMR (400 MHz, CDCl3) δ 7.41 (t, J=2.4 Hz, 1H), 6.97˜7.04 (m, 2H), 4.75˜4.77 (m, 1H), 3.88˜3.92 (m, 1H), 3.73˜3.79 (m, 2H), 2.71-2.86 (m, 2H).

reactant | 5-bromo-3,4-dihydro-1H-isochromene-1-carboxylic acid | 1.94 mmol, 0.500 g | BrC1=C2CCOC(C2=CC=C1)C(=O)O | C10H9BrO3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 3.88 mmol, 3.88 mL | C1CCOC1 | C4H8O
product | (5-bromo-3,4-dihydro-1H-isochromen-1-yl)methanol | BrC1=C2CCOC(C2=CC=C1)CO | C10H11BrO2
